US06545009B1
In the same manner as in Example 74, ethyl 3-thiocarbamoylbenzoate was reacted with 4-ethoxyphenacyl bromide to obtain ethyl 3-[4-(4-ethoxyphenyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 59%. Pale yellow prisms. Melting point: 108 to 110° C.

reactant | ethyl 3-thiocarbamoylbenzoate | C(N)(=S)C=1C=C(C(=O)OCC)C=CC1 | C10H11NO2S
reactant | 4-ethoxyphenacyl bromide | C(C)OC1=CC=C(C(CBr)=O)C=C1 | C10H11BrO2
product | ethyl 3-[4-(4-ethoxyphenyl)-2-thiazolyl]benzoate | Yield: 59% | C(C)OC1=CC=C(C=C1)C=1N=C(SC1)C=1C=C(C(=O)OCC)C=CC1 | C20H19NO3S
